US08207164B2
c) 2-Amino-2-(5-bromo-2-fluoro-phenyl)-propane-1,3-diol
A solution of 2-(5-bromo-2-fluoro-phenyl)-2-nitro-propane-1,3-diol (7 g, 23.8 mmol) in 35 ml AcOH was added dropwise to a mixture of zinc (9.34 g, 143 mmol) in 35 ml AcOH while the temperature did not rise above 40° C. The mixture was stirred for 1 h, filtered over celite and washed with MeOH. The filtrate was evaporated, diluted with water and washed with TBME. The aqueous layer was basified with 2 N NaOH and NH3 (25%, aqueous), saturated with NaCl and extracted with EtOAc. The organic layer was washed with brine, dried with Na2SO4 and evaporated to provide the title compound as an off-white solid.

reactant | 2-(5-bromo-2-fluoro-phenyl)-2-nitro-propane-1,3-diol | 23.8 mmol, 7 g | BrC=1C=CC(=C(C1)C(CO)(CO)[N+](=O)[O-])F | C9H9BrFNO4
solvent | AcOH | 35 ml | CC(=O)O | C2H4O2
solvent | AcOH | 35 ml | CC(=O)O | C2H4O2
catalyst | zinc | 143 mmol, 9.34 g | [Zn] | Zn
product | 2-Amino-2-(5-bromo-2-fluoro-phenyl)-propane-1,3-diol | NC(CO)(CO)C1=C(C=CC(=C1)Br)F | C9H11BrFNO2
